US04791108
Diisopropylamine (28 ml) and 150 ml of tetrahydrofuran were cooled to -65° C. and 125 mL of 1.6M n-butyllithium was added. To the resulting solution was added a solution of 16.2 g of 3,4-dihydroisoquinoline and 38.4 g of 2-methylnicotinic acid diethylamide in tetrahydrofuran. The mixture was allowed to warm to -20° C. and 600 ml of 3N hydrochloric acid was then added followed by 200 ml of water. The mixture was basified with NH4OH and extracted twice with ether. The ether extracts were combined, dried over anhydrous magnesium sulfate and evaporated to a residue, which was dissolved in methanol and acidified with anhydrous HCl in ether. Acetone (50 ml) was added and the mixture was allowed to stand overnight. The crystalline product was collected by filtration, yielding 34 g of (±)-5,6,13,13a-tetrahydroisoquino[2,1-g][1,6]naphthyridine-8-one hydrochloride, m.p. 220°-222° C.

reactant | Diisopropylamine | 28 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 125 mL | C(CCC)[Li]
reactant | 3,4-dihydroisoquinoline | 16.2 g | C1=NCCC2=CC=CC=C12 | C9H9N
reactant | 2-methylnicotinic acid diethylamide | 38.4 g | C(C)N(C(C1=C(N=CC=C1)C)=O)CC | C11H16N2O
reactant | hydrochloric acid | 3N, 600 ml | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (±)-5,6,13,13a-tetrahydroisoquino[2,1-g][1,6]naphthyridine-8-one hydrochloride | 34 g | Cl.C1=CC=CC=2CCN3C(C=4C=CC=NC4CC3C12)=O | InChI=1S/C16H14N2O.ClH/c19-16-13-6-3-8-17-14(13)10-15-12-5-2-1-4-11(12)7-9-18(15)16;/h1-6,8,15H,7,9-10H2;1H
